US06525061B1
Step 1: Fluorenylmethyloxycarbonyl Isothiocyanate
The title compound was prepared from Fluorenylmethyloxycarbonyl chloride and potassium thiocyanate according to the procedure of Kearney et al. J. Org. Chem. 1998, 63, 199; 1H NMR (CDCl3) δ7.75 (d, J=7.5 Hz, 2H), 7.56 (d, J=7.5 Hz, 2H), 7.41 (t, J=7.5 Hz, 2H), 7.32 (t, J=7.5 Hz, 2H), 4.44 (d, J=7.4 Hz, 2H), 4.23 (t, J=7.4 Hz, 1H).

reactant | Fluorenylmethyloxycarbonyl chloride | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)Cl | C15H11ClO2
reactant | potassium thiocyanate | [S-]C#N.[K+]
product | Fluorenylmethyloxycarbonyl Isothiocyanate | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)N=C=S | C16H11NO2S
